### PR TITLE
Added Unnormalised Rational Field Structure

### PR DESCRIPTION
**Pull request by guilhermehas**
Some examples of my code are:
```agda
+-*-isHeytingCommutativeRing : IsHeytingCommutativeRing _≃_ _≠_ _+_ _*_ -_ 0ℚᵘ 1ℚᵘ
+-*-isHeytingField : IsHeytingField _≃_ _≠_ _+_ _*_ -_ 0ℚᵘ 1ℚᵘ
```

### CODE REVIEW

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 1]
```diff
@@ -36,6 +38,8 @@ open import Relation.Binary
 import Relation.Binary.Consequences as BC
 open import Relation.Binary.PropositionalEquality
 import Relation.Binary.Properties.Poset as PosetProperties
+open import Relation.Nullary using (yes; no)
+import Relation.Binary.Reasoning.Setoid as ReasonSetoid
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:42]: We usually name this `SetoidReasoning` not `ReasonSetoid`

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 2]
```diff
@@ -117,6 +149,8 @@ p ≃? q = Dec.map′ *≡* drop-*≡* (↥ p ℤ.* ↧ q ℤ.≟ ↥ q ℤ.* 
   { isDecEquivalence = ≃-isDecEquivalence
   }
 
+module ≃-Reasoning = ReasonSetoid ≃-setoid
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:152]: Missing from CHANGELOG.md

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 3]
```diff
@@ -107,6 +126,19 @@ p ≃? q = Dec.map′ *≡* drop-*≡* (↥ p ℤ.* ↧ q ℤ.≟ ↥ q ℤ.* 
...
+≠-isApartnessRelation = record
+  { irrefl  = ≃-≠-irreflexive
+  ; sym     = ≠-symmetric
+  ; cotrans = ≠-cotransitive
+  }
+
+≠-tight : Tight _≃_ _≠_
+proj₁ (≠-tight p q) ¬p≠q with p ≃? q
+... | yes p≃q = p≃q
+... | no ¬p≃q = ⊥-elim (¬p≠q ¬p≃q)
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:139]: Can we use `contradiction` instead?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 4]
```diff
@@ -1051,6 +1091,18 @@ p≤q⇒0≤q-p {p} {q} p≤q = begin
...
+invertible⇒≠ {p} {q} (1/p-q , 1/x*x≃1 , x*1/x≃1) p≃q = 0ℚᵘ≠1ℚᵘ 0≃1
+  where
+  open ≃-Reasoning
+
+  0≃1 : 0ℚᵘ ≃ 1ℚᵘ
+  0≃1 = begin
+   0ℚᵘ             ≈˘⟨ *-zeroˡ 1/p-q ⟩
+   0ℚᵘ * 1/p-q     ≈˘⟨ *-congʳ (p≃q⇒p-q≃0 p q p≃q) ⟩
+   (p - q) * 1/p-q ≈⟨ x*1/x≃1 ⟩
+   1ℚᵘ             ∎
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1104]: Might be nicer to lay this out as:
```
invertible⇒≠ : Invertible _≃_ 1ℚᵘ _*_ (p - q) → p ≠ q
invertible⇒≠ {p} {q} (1/p-q , 1/x*x≃1 , x*1/x≃1) p≃q = 0ℚᵘ≠1ℚᵘ (begin
   0ℚᵘ             ≈˘⟨ *-zeroˡ 1/p-q ⟩
   0ℚᵘ * 1/p-q     ≈˘⟨ *-congʳ (p≃q⇒p-q≃0 p q p≃q) ⟩
   (p - q) * 1/p-q ≈⟨ x*1/x≃1 ⟩
   1ℚᵘ             ∎)
  where open ≃-Reasoning
```

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 5]
```diff
@@ -94,6 +98,21 @@ drop-*≡* (*≡* eq) = eq
 _≃?_ : Decidable _≃_
 p ≃? q = Dec.map′ *≡* drop-*≡* (↥ p ℤ.* ↧ q ℤ.≟ ↥ q ℤ.* ↧ p)
 
+0ℚᵘ≠1ℚᵘ : 0ℚᵘ ≠ 1ℚᵘ
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:101]: I feel like this could probably be just `0≠1`?

**Review by MatthewDaggitt — COMMENTED** [review]
Looks good.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 3 above)
Comment (Taneb) [reply src/Data/Rational/Unnormalised/Properties.agda:139]: I think it would be even better to use `decidable-stable` here.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 1 above)
Comment (guilhermehas) [reply src/Data/Rational/Unnormalised/Properties.agda]: I renamed it.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 2 above)
Comment (guilhermehas) [reply src/Data/Rational/Unnormalised/Properties.agda]: I added it in Changelog.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 3 above)
Comment (guilhermehas) [reply src/Data/Rational/Unnormalised/Properties.agda]: It is using decidable-stable instead.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 4 above)
Comment (guilhermehas) [reply src/Data/Rational/Unnormalised/Properties.agda]: It is in this way instead.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 5 above)
Comment (guilhermehas) [reply src/Data/Rational/Unnormalised/Properties.agda]: I renamed to 0≠1

File: CHANGELOG.md [hunk 6]
```diff
@@ -2998,3 +2998,29 @@ This is a full list of proofs that have changed form to use irrelevant instance
...
   ```
+
+* Added new module to `Data.Rational.Unnormalised.Properties`
+  ```agda
+  module ≃-Reasoning = SetoidReasoning ≃-setoid
+  ```
+
+* Added new functions to `Data.Rational.Unnormalised.Properties`
+  ```agda
+  0ℚᵘ≠1ℚᵘ : 0ℚᵘ ≠ 1ℚᵘ
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:3009]: Need to update this entry.

Comment (guilhermehas) [reply CHANGELOG.md]: I renamed it.
